US09399639B2
Step 1) (S)-tert-butyl (1-(N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propylsulfonamido)-3-methyl-1-oxobutan-2-yl)carbamate
To a mixture of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.3 g, 0.61 mmol), (S)-2-(Boc-amino)-3-methylbutyric acid (0.28 g, 1.29 mmol) and 4-ppy (9 mg, 0.06 mmol) in DMF (2 mL) was added EDCI (234 mg, 1.23 mmol). The reaction was stirred at rt for 16 h, then diluted with EtOAc (30 mL) and washed with water (30 mL×3). The mixture was dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=3/1 to 2/1) to afford the title compound as a white solid (41 mg, 29.1%). The title compound was characterized by LC-MS as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.61 mmol, 0.3 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | (S)-2-(Boc-amino)-3-methylbutyric acid | 1.29 mmol, 0.28 g | C(=O)(OC(C)(C)C)N[C@H](C(=O)O)C(C)C | C10H19NO4
reactant | EDCI | 1.23 mmol, 234 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl (1-(N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propylsulfonamido)-3-methyl-1-oxobutan-2-yl)carbamate | 41 mg, 29.1% | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)N(S(=O)(=O)CCC)C([C@H](C(C)C)NC(OC(C)(C)C)=O)=O)F | C33H35ClF2N4O6S
